US08912188B2
To a solution of (S)-methyl 7-methoxy-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (1.0 g, 3.15 mmol) in dichloromethane (80 ml) was added pyridine (990 mg, 12.52 mmol) and Tf2O (1.69 g, 5.99 mmol), and the reaction was stirred overnight under an atmosphere of nitrogen at room temperature. The reaction mixture was then quenched with water (200 ml), extracted with dichloromethane (3×30 mL), the organic layers combined, dried over anhydrous magnesium sulfate, and concentrated in vacuo to afford (S)-methyl 7-methoxy-3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate as red oil (1.20 g, crude), which was used in the next step directly.

reactant | (S)-methyl 7-methoxy-3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 3.15 mmol, 1.0 g | COC1=C(C=C2N=C(C(NC2=C1)=O)N1[C@H](CCC1)C)C(=O)OC | C16H19N3O4
reactant | pyridine | 12.52 mmol, 990 mg | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 5.99 mmol, 1.69 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | (S)-methyl 7-methoxy-3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | COC1=C(C=C2N=C(C(=NC2=C1)OS(=O)(=O)C(F)(F)F)N1[C@H](CCC1)C)C(=O)OC | C17H18F3N3O6S
